US07947730B2
1-[2-(4-Benzyloxycarbonyl-phenyl)-ethyl]-4-(2-hydroxy-2,2-diphenyl-acetoxy)-1-methyl-piperidinium bromide
Hydroxy-diphenyl-acetic-acid-1-methyl-piperidin-4-yl-ester (1.56 g, 4.8 mmol) and 4-(2-bromo-ethyl)-benzoic acid benzyl ester (2.3 ml, 7.21 mmol) are dissolved in DMF (5 ml) and stirred at 50° C. for 20 hours, followed by heating at 60° C. for 5 hours. Concentration and purification twice by C-18 reverse phase chromatography (eluant: water/acetonitrile) gives the title compound as a mixture of diastereoisomers.

reactant | Hydroxy-diphenyl-acetic-acid-1-methyl-piperidin-4-yl-ester | 4.8 mmol, 1.56 g | CN1CCC(CC1)OC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C20H23NO3
reactant | 4-(2-bromo-ethyl)-benzoic acid benzyl ester | 7.21 mmol, 2.3 ml | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)CCBr)=O | C16H15BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-Benzyloxycarbonyl-phenyl)-ethyl]-4-(2-hydroxy-2,2-diphenyl-acetoxy)-1-methyl-piperidinium bromide | [Br-].C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)CC[N+]1(CCC(CC1)OC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)C | InChI=1S/C36H38NO5.BrH/c1-37(24-21-28-17-19-30(20-18-28)34(38)41-27-29-11-5-2-6-12-29)25-22-33(23-26-37)42-35(39)36(40,31-13-7-3-8-14-31)32-15-9-4-10-16-32;/h2-20,33,40H,21-27H2,1H3;1H/q+1;/p-1
